US07935699B2
(4-{3-[2-(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-but-2-ynyl)-carbamic acid tert-butyl ester (240 mg, 0.43 mmol) was dissolved in methylene chloride (10 mL) and trifluoroacetic acid (2 mL) was added while stirring. The reaction continued to stir for 45 min. The reaction was concentrated in vacuo at 0° C. to give a yellow oil. The reaction was diluted with ethyl acetate (200 mL), washed with saturated aqueous sodium bicarbonate (2×50 mL), saturated aqueous brine solution (50 mL), dried over magnesium sulfate and concentrated in vacuo to give a yellow oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 0% methanol/ethyl acetate to 10% methanol/ethyl acetate) afforded N-[1-(4-amino-but-2-ynyl)-1H-pyrazol-3-yl]-2-(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (128 mg, 69%) as a thick, faintly yellow oil: ESI-LRMS m/e calcd for C22H27ClN4O3S [M+] 462.2, found 463.2 [M+H+]; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03-1.21 (m, 2H, CH2), 1.38-1.82 (m, 8H, 4×CH2), 1.98 (brs, 2H, NH2), 2.05-2.24 (m, 1H, CH), 3.29 (t, J=2.0 Hz, 2H, NCH2), 3.33 (s, 3H, SO2CH3), 3.86-3.95 (m, 1H, CH), 4.87 (t, J=2.0 Hz, 2H, NCH2), 6.44 (d, Jo=2.3 Hz, 1H, Ar), 7.58 (dd, Jo=8.2, Jm=1.6 Hz. 1H, Ar), 7.62 (d, Jo=2.3 Hz, 1H, Ar), 7.68 (d, Jm=1.6 Hz, 1H, Ar), 7.99 (d, Jo=8.2 Hz, 1H, Ar), 10.81 (s, 1H, NH).

reactant | (4-{3-[2-(R)-(3-Chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazol-1-yl}-but-2-ynyl)-carbamic acid tert-butyl ester | 0.43 mmol, 240 mg | C(C)(C)(C)OC(NCC#CCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O)=O | C27H35ClN4O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-(4-amino-but-2-ynyl)-1H-pyrazol-3-yl]-2-(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 128 mg, 69% | NCC#CCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C22H27ClN4O3S
